* c:\users\jittin\esim-workspace\cmos_nand_gate\cmos_nand_gate.cir

.lib "models/sky130.lib.spice" tt

xm1  vout input_a vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 M=1
xm4  vout input_b vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 M=1
xm2  vout input_a net-_m2-pad3_ gnd sky130_fd_pr__nfet_01v8 w=.42 l=.5 M=1
xm3  net-_m2-pad3_ input_b gnd gnd sky130_fd_pr__nfet_01v8 w=.42 l=.5 M=1
* u1  /input_a /input_b /vdd /vout port
 

v1 input_a gnd pulse(0 1.8 0s 0s 0s 5us 10us)
v2 input_b gnd pulse(0 1.8 0s 0s 0s 5us 10us)	
vdd vdd 0 1.8


.tran 0.1us 40us

* Control Statements 
.control
run
plot v(input_a) v(input_b)+2v (vout)+4  
.endc
.end
